US06075029
B. Preparation of 3,8-Dimethylxanthine
A solution of 1-methyl-5,6-diaminouracil (2.5 g) in acetic anhydride (25 ml) was heated at reflux for 2 hours and then concentrated. The residue was dissolved in 10% sodium hydroxide solution (50 ml) and heated at reflux for 2 hours. After cooling to room temperature the solution was acidified to pH 4 with concentrated hydrochloric acid. The product was filtered, washed with water (15 ml), with acetone (15 ml) and then dried under vacuum. Yield 1.8 g.

reactant | 1-methyl-5,6-diaminouracil | 2.5 g | CN1C(=O)NC(=O)C(=C1N)N | C5H8N4O2
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3,8-Dimethylxanthine | CN1C(NC(C=2NC(=NC12)C)=O)=O | C7H8N4O2
